US04680300
A solution of 1-(2-biphenyloxy)-6-chlorohexane 8.0 g) and potassium phtalimide (5.6 g) in dimethylformamide (100) ml) was heated at reflux temperature for 3 hours. The solution was cooled and poured into water, and the product was extracted out with ethyl acetate. The extract was dried and evaporated to afford N-[6-(biphenyloxy)hexyl]phthalimide.

reactant | 1-(2-biphenyloxy)-6-chlorohexane | 8.0 g | C=1(C(=CC=CC1)OCCCCCCCl)C1=CC=CC=C1 | C18H21ClO
reactant | potassium phtalimide | 5.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[6-(biphenyloxy)hexyl]phthalimide | C=1(C(=CC=CC1)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C26H25NO3
